US07163947B2
A solution of N-(2-ethoxymethy-5-oxido-1H-imidazo[4,5-c]quinolin-1-yl)isopropylamine (0.93 g, 3.10 mmol) in 25 mL of CH2Cl2 was treated with 15 mL of concentrated NH4OH solution. To the rapidly stirred solution was added p-toluenesulfonyl chloride (620 mg, 3.25 mmol). After stirring for 30 min, the reaction was treated with CH2Cl2 (20 mL) and H2O (15 mL). The layers were separated and the organic portion was washed with 2% Na2CO3 solution, H2O and brine. The organic portion was dried over Na2SO4, filtered and concentrated to give a tan solid. Chromatography (SiO2, 5% MeOH/CHCl3) gave 2-ethoxymethyl-N1-isopropyl-1H-imidazo[4,5-c]quinoline-1,4-diamine (368 mg) as a tan solid. mp 162–164° C.; 1H NMR (300 MHz, CDCl3) δ 8.60 (dd, J=8.2, 1.1 Hz, 1H), 7.77 (dd, J=8.4, 0.7 Hz, 1H), 7.54–7.47 (m, 1H), 7.33–7.54 (m, 1H), 5.55 (d, J=3.2 Hz, 1H), 5.41 (s, 2H), 4.89 (s, 2H), 3.73–3.60 (m, 3H), 1.26 (t, J=7.0 Hz, 3H); 1.15 (d, J=6.2 Hz, 6H); 13C NMR (75 MHz, CDCl3) δ 151.1, 148.7, 145.0, 127.7, 126.6, 123.9, 121.9, 121.3, 115.4, 66.8, 65.7, 52.5, 20.6, 15.1; MS m/z 300 (M+H)+; Anal. Calcd for C16H21N5O.0.48 H2O: C, 62.39; H, 7.19; N, 22.74; Found: C, 62.38, H, 6.90; N, 22.79.

reactant | N-(2-ethoxymethy-5-oxido-1H-imidazo[4,5-c]quinolin-1-yl)isopropylamine | 3.10 mmol, 0.93 g | C(C)OCC=1N(C2=C(C=[N+](C=3C=CC=CC23)[O-])N1)NC(C)C | C16H20N4O2
reactant | NH4OH | 15 mL | [NH4+].[OH-]
reactant | p-toluenesulfonyl chloride | 3.25 mmol, 620 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | H2O | 15 mL | O | H2O
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH CHCl3 | CO.C(Cl)(Cl)Cl
product | 2-ethoxymethyl-N1-isopropyl-1H-imidazo[4,5-c]quinoline-1,4-diamine | 368 mg | C(C)OCC=1N(C2=C(C(=NC=3C=CC=CC23)N)N1)NC(C)C | C16H21N5O
